US06100405
2-Bromo-9,9-diethylfluorene
To a solution of diethylfluorene (22.2 g., 0.1 mol.) in propylene carbonate (100 ml), N-bromosuccinimide (17.8 g., 0.1 mol.) was added at 57° C. in portions and the mixture was stirred for 30 minutes at 60° C. The mixture was diluted with 1200 ml of water and extracted with 500 ml of toluene. The toluene extract was washed 3 times with 300 ml portions of water, dried and concentrated. The crude product from 3 batches of the same size totaled 117 g. oil. This was distilled at 2 mm. The first fraction, b.p. 90-93° C., 22.33 g., was found to be propylene carbonate. The second fraction, b. p. 155-165° C., 81.0 g. (89.7% yield), was the desired compound. Mass Spec: m/z 300, 302 (M+).

reactant | diethylfluorene | 0.1 mol, 22.2 g | C(C)C1=C(C=2CC3=CC=CC=C3C2C=C1)CC | C17H18
reactant | N-bromosuccinimide | 0.1 mol, 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | propylene carbonate | 100 ml | C1(OCC(C)O1)=O | C4H6O3
solvent | water | 1200 ml | O | H2O
product | 2-Bromo-9,9-diethylfluorene | 89.7% yield | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(CC)CC | C17H17Br
